US07301027B2
A 0.4 M solution of 3-(2-bromo-phenyl)-2-formylamino-acrylic acid ethyl ester (5.3 g; 17.8 mM) in anhydrous CH2Cl2, at 0° C., is added with N-bromosuccinimide (3.48 g; 19.6 mM). The mixture is left to slowly warm to room temperature. The reaction is completed in about 5 hours 30 mm. The equivalent amount of triethylamine is added drop by drop; after 30 minutes the mixture is washed with a NaHCO3 saturated solution and then with a NaCl saturated solution. The organic phase is dried over Na2SO4, the solid is filtered off and the clear solution is evaporated under reduced pressure to a residue. The crude (brownish oil) is purified by flash chromatography, using a 6:4 v/v mixture of hexane and ethyl acetate as eluent, thereby obtaining 2.68 g of 3-bromo-3-(2-bromo-phenyl)-2-formylamino-acrylic acid ethyl ester (white-pale yellow solid). (Yield: 40%).

reactant | 3-(2-bromo-phenyl)-2-formylamino-acrylic acid ethyl ester | 17.8 mM, 5.3 g | C(C)OC(C(=CC1=C(C=CC=C1)Br)NC=O)=O | C12H12BrNO3
reactant | N-bromosuccinimide | 19.6 mM, 3.48 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-bromo-3-(2-bromo-phenyl)-2-formylamino-acrylic acid ethyl ester | 2.68 g, Yield: 40% | C(C)OC(C(=C(C1=C(C=CC=C1)Br)Br)NC=O)=O | C12H11Br2NO3
